US08703805B2
Preparation of [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]acetonitrile
A mixture of the 3-bromomethyl-1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-thiophen-2-yl]-1H-pyrazole (720 mg, 1.42 mmol), NaCN (250 mg, 5.1 mmol), and DMSO (10 mL) was stirred in a sealed vial at 100° C. for 5 h, diluted with water, and extracted with EtOAc. The combined extracts were washed with water, brine, dried over Na2SO4, and evaporated in vacuo. The crude product was purified by flash chromatography (0-80% EtOAc/hexanes) to give the title compound as a white solid (350 mg, 54%). 1HNMR (CDCl3): δ 8.03 (d, 1H), 7.84 (m, 1H), 7.72 (m, 1H), 7.58-7.44 (m, 5H), 7.22 (d, 1H), 6.79 (d, 1H), 6.73 (s, 1H), 3.87 (s, 2H), 3.09 (s, 3H). MS(ES): 454 [M+H]+.

reactant | 3-bromomethyl-1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-thiophen-2-yl]-1H-pyrazole | 1.42 mmol, 720 mg | BrCC1=NN(C(=C1)C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C1=C(C=CC=C1)Cl | C21H16BrClN2O2S2
reactant | NaCN | 5.1 mmol, 250 mg | [C-]#N.[Na+]
reactant | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]acetonitrile | 350 mg, 54% | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)CC#N | C22H16ClN3O2S2
